* white noise, 1/f noise, RTS noise

* voltage source
VRTS2 13 12 DC 0 trnoise(0 0 0 0 5m 18u 30u)
VRTS3 11 0 DC 0 trnoise(0 0 0 0 10m 20u 40u) 
VALL 12 11 DC 0 trnoise(1m 1u 1.0 0.1m 15m 22u 50u)

VW1of 21 0 DC  trnoise(1m 1u 1.0 0.1m)

* current source
IRTS2 10 0 DC 0 trnoise(0 0 0 0 5m 18u 30u)
IRTS3 10 0 DC 0 trnoise(0 0 0 0 10m 20u 40u) 
IALL 10 0 DC 0 trnoise(1m 1u 1.0 0.1m 15m 22u 50u)
R10 10 0 1

IW1of 9 0 DC  trnoise(1m 1u 1.0 0.1m)
Rall 9 0 1

* 500000 sample points
.tran 1u 50u

.control
run
plot v(13) v(21)
plot v(10) v(9)
quit
.endc

.end
 
